US04772314
Synthesis of N-(N-acetylphenylglycyl)phenylglycine methyl ester
To 20 parts by volume of chloroform was added 0.96 part by weight of N-acetylphenylglycine. With ice cooling, 1.03 parts by weight of dicyclohexylcarbodiimide was added, and the mixture was stirred. Furthermore, 0.83 part by weight of phenylglycine methyl ester was added, and about 3 hours later, the temperature was returned to room temperature. The mixture was then stirred overnight. After the reaction, the precipitate was collected by filtration, and washed with chloroform. The filtrate was concentrated to dryness. The resulting solid was washed with ethyl acetate, and extracted with a mixture of chloroform and petroleum ether to give 1.2 parts by weight of the captioned compound having a melting point of 198° to 200° C.

reactant | N-acetylphenylglycine | C(C)(=O)N(CC(=O)O)C1=CC=CC=C1 | C10H11NO3
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | phenylglycine methyl ester | COC(CNC1=CC=CC=C1)=O | C9H11NO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(N-acetylphenylglycyl)phenylglycine methyl ester | COC(CN(C(CN(C(C)=O)C1=CC=CC=C1)=O)C1=CC=CC=C1)=O | C19H20N2O4
